US05559105
b) 2-n-Butyl-5-(2-hydroxy-4-methoxybenzoyl)-1-trimethylsilylethyloxymethoxy-1H-imidazole
A solution of 5-(2-Benzyloxy-4-methoxybenzoyl)-2-n-butyl-1-trimethylsilylethyloxymethoxy-1H-imidazole (549 mg, 1.1 mmol) in EtOAc (15 ml) was stirred with 10% Pd/C (87 mg) under H2 (1 atm) for 18 h. Filtration and evaporation afforded the title compound as a yellow oil (407 mg, 91% ).

reactant | 5-(2-Benzyloxy-4-methoxybenzoyl)-2-n-butyl-1-trimethylsilylethyloxymethoxy-1H-imidazole | 1.1 mmol, 549 mg | C(C1=CC=CC=C1)OC1=C(C(=O)C2=CN=C(N2OCOC(C)[Si](C)(C)C)CCCC)C=CC(=C1)OC | C28H38N2O5Si
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 87 mg | [Pd] | Pd
product | 2-n-Butyl-5-(2-hydroxy-4-methoxybenzoyl)-1-trimethylsilylethyloxymethoxy-1H-imidazole | 407 mg, 91% | C(CCC)C=1N(C(=CN1)C(C1=C(C=C(C=C1)OC)O)=O)OCOC(C)[Si](C)(C)C | C21H32N2O5Si
